US04671798
adding 2-methyl-penta-1,3-diene to 6,6-dimethyl-cyclohex-2-en-1-one under the conditions of a Diels-Alder type reaction to give 3,4,4a,5,8,8a-hexahydro-2,2,6,8-tetramethyl-1(2H)-naphthalenone, and

reactant | 2-methyl-penta-1,3-diene | CC(=C)C=CC | C6H10
reactant | 6,6-dimethyl-cyclohex-2-en-1-one | CC1(CCC=CC1=O)C | C8H12O
product | 3,4,4a,5,8,8a-hexahydro-2,2,6,8-tetramethyl-1(2H)-naphthalenone | CC1(C(C2C(C=C(CC2CC1)C)C)=O)C | C14H22O
